chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[F-:2].[F:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],42.213943930654246
[Br-:2].[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21]>>[Br-:1].[Br:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21],29.82718570822733
[F-:2].[F:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24],38.80777185261457
[Br-:2].[Br:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21]>>[Br-:1].[Br:2][C@@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N+:11]([O-:12])[O:13])[H:21],31.83736884705869
[F:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21],10.407523213878532
[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],7.509398342885681
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],25.9277806767246
[Br-:2].[Cl:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[H:21]>>[Br:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[H:21].[Cl-:1],18.775583800568988
[Br:1][C:5]([C:4]([H:3])([H:31])[H:41])([H:11])[H:21].[F-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([H:31])[H:41].[F:2][H:3],8.512988908409232
[Br:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23].[H-:2]>>[Br-:1].[C:4](=[C:5]([N+:11]([O-:12])[O:13])[N+:21]([O-:22])[O:23])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[H:2][H:3],3.387206743097261
[F-:2].[F:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[F-:1].[F:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],30.313018989705306
[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22],1.235867031501555
[Cl:1][C:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],22.952089365542463
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24])(\[C:31]([H:32])([H:33])[H:34])[H:41].[Cl-:1].[H:2][H:3],10.695687369240034
[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl-:1].[F:2][H:3],1.0497888352532314
[Br-:2].[Br:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([H:11])[C:21]([H:22])([H:23])[H:24]>>[Br-:1].[Br:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]#[N:42])([H:11])[C:21]([H:22])([H:23])[H:24],30.62494725704309
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22],17.191372459051333
[F-:2].[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[F-:1].[F:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]#[N:22],27.698994407245035
[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([H:11])[H:21].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N+:41]([O-:42])[O:43])([H:11])[H:21],17.015079866270025
[Cl:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N:11]([H:12])[H:13])[H:21].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([N:11]([H:12])[H:13])[H:21],12.128426742469388
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]#[N:22],37.841397973256726
